US06207678B1
1,2,3,4-Tetrahydro-5-naphthoyl chloride (1.70 g) (see Preparation 36) was added dropwise to a suspension of 3(S)-(3,4-dichlorophenyl)-4-(imidazol-1-yl)butan-1-ol (0.90 g) (see Preparation 99) and triethylamine (1.45 g) in anhydrous acetonitrile (15 ml) and the solution stirred at room temperature for 4 days. The solvent was then removed under reduced pressure to give a residue which was partitioned between ethyl acetate and saturated aqueous sodium hydrogen carbonate solution. The phases were separated and the aqueous phase further extracted with ethyl acetate. The organic phases were combined, washed sequentially with water and brine, dried over anhydrous sodium sulphate and the solvent removed under reduced pressure to give a residue which was chromatographed on silica gel eluting with a solvent gradient of 2:1 changing to 0:1, by volume, pentane:ethyl acetate to give 3(S)-(3,4-dichlorophenyl)-4-[2-(1,2,3,4-tetrahydro-5-naphthoyl)imidazol-1-yl]butyl 1,2,3,4-tetrahydro-5-naphthoate (1.38 g) as a gum.

reactant | 1,2,3,4-Tetrahydro-5-naphthoyl chloride | 1.70 g | C1CCCC=2C(=CC=CC12)C(=O)Cl | C11H11ClO
reactant | 3(S)-(3,4-dichlorophenyl)-4-(imidazol-1-yl)butan-1-ol | 0.90 g | ClC=1C=C(C=CC1Cl)[C@H](CCO)CN1C=NC=C1 | C13H14Cl2N2O
reactant | triethylamine | 1.45 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 3(S)-(3,4-dichlorophenyl)-4-[2-(1,2,3,4-tetrahydro-5-naphthoyl)imidazol-1-yl]butyl 1,2,3,4-tetrahydro-5-naphthoate | 1.38 g | C1CCCC=2C(=CC=CC12)C(=O)OCC[C@H](CN1C(=NC=C1)C(=O)C=1C=2CCCCC2C=CC1)C1=CC(=C(C=C1)Cl)Cl | C35H34Cl2N2O3
